US07816526B2
Synthesis of 2-ethylsulfonyl-6-n-propylimidazo[1,2-b]pyridazin-3-ylsulfonamide
2-Ethylthio-6-n-propylimidazo[1,2-b]pyridazin-3-ylsulfonamide (0.30 g, 1.00 mmol) was suspended in acetonitrile (1.0 ml) and water (4.0 ml), and sodium percarbonate (effective oxygen concentration, 12.2%; 0.33 g; 2.50 mmol) was added thereto at 45° C. and stirred at 50 to 60° C. for 2.5 hours. The reaction mixture was poured into water and acidified with dilute hydrochloric acid, and the precipitated insoluble solids were collected by filtration and washed with water, to give the title compound as white crystals. The yield was 0.25 g (75.3%).

reactant | 2-Ethylthio-6-n-propylimidazo[1,2-b]pyridazin-3-ylsulfonamide | 1.00 mmol, 0.30 g | C(C)SC=1N=C2N(N=C(C=C2)CCC)C1S(=O)(=O)N | C11H16N4O2S2
reactant | sodium percarbonate | 2.50 mmol, 0.33 g | C(=O)([O-])[O-].C(=O)([O-])[O-].OO.OO.OO.[Na+].[Na+].[Na+].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | water | 4.0 ml | O | H2O
solvent | acetonitrile | 1.0 ml | C(C)#N | C2H3N
product | 2-ethylsulfonyl-6-n-propylimidazo[1,2-b]pyridazin-3-ylsulfonamide | C(C)S(=O)(=O)C=1N=C2N(N=C(C=C2)CCC)C1S(=O)(=O)N | C11H16N4O4S2
